US05834494
N-(3-Chloro4-methylphenyl)-2,2-diethoxyethylamine (D8)
3-Chloro-4-methylaniline (10.26 g, 72.5 mmol), sodium hydrogen carbonate (9.1 g, 108 mmol) and bromoacetaldehyde diethyl acetal (13.1 ml, 87.1 mmol) were stirred at reflux under Ar in ethanol (150 ml) for 6 days. The mixture was then evaporated to dryness, partitioned between ether and water, and separated. The organic portion was washed with brine, dried (Na2SO4) and evaporated to a black oil. Bulb to bulb distillation of this crude material (oven temperature 175° C., ca 0.1 mmHg) then gave the title compound (4.90 g, 26%) as a colourless oil.

reactant | 3-Chloro-4-methylaniline | 72.5 mmol, 10.26 g | ClC=1C=C(N)C=CC1C | C7H8ClN
reactant | sodium hydrogen carbonate | 108 mmol, 9.1 g | C(O)([O-])=O.[Na+]
reactant | bromoacetaldehyde diethyl acetal | 87.1 mmol, 13.1 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-(3-Chloro4-methylphenyl)-2,2-diethoxyethylamine | 4.90 g, 26% | ClC=1C=C(C=CC1C)NCC(OCC)OCC | C13H20ClNO2
